US06881736B1
b) 3-(4-Benzyloxyphenyl)-2-[(trifluoromethyl)thiazol-2-yl]acrylonitrile
NaH (516 mg, 60% dispersion in mineral oil, 12.9 mmole) was reacted with absolute EtOH (10 mL) at 0° C. After gas evolution had ceased the mixture was warmed to RT. 4-Benzyloxybenzaldehyde (2.05 g, 9.68 mmole) was added all at once as a solid. To this mixture was added dropwise a solution of 2-cyanomethyl-4(trifluoromethyl)thiazole (1.24 g) in absolute EtOH (20 mL). The reaction was stirred for 4 hr, then the solid was collected by filtration and washed with hexanes to give the title compound (1.64 g, 42% over 2 steps) as a yellow solid: 1H NMR (300 MHz. CDCl3) δ 8.25 (s, 1 H), 8.00 (d, J=6 Hz, 2 H), 7.79(s, 1 H), 7.40 (m, 5 H), 7.10(d, J=6 Hz, 2 H), 5.18 (s, 2 H).

reactant | NaH | 12.9 mmole, 516 mg | [H-].[Na+]
reactant | 4-Benzyloxybenzaldehyde | 9.68 mmole, 2.05 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | 2-cyanomethyl-4(trifluoromethyl)thiazole | 1.24 g | C(#N)CC=1SC=C(N1)C(F)(F)F | C6H3F3N2S
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-(4-Benzyloxyphenyl)-2-[(trifluoromethyl)thiazol-2-yl]acrylonitrile | 1.64 g, 42% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=C(C#N)C=1SC=C(N1)C(F)(F)F | C20H13F3N2OS
